US06545009B1
In the same manner as in Example 106, ethyl 4-[2-(4-trifluoromethylbenzoylamino)-1-oxoethyl]benzoate was reacted with phosphorus oxychloride to obtain ethyl 4-[2-(4-trifluoromethylphenyl)-5-oxazolyl]benzoate. The product was recrystallized from ethanol. Yield: 60%. Pale yellow prisms. Melting point: 142 to 143° C.

reactant | ethyl 4-[2-(4-trifluoromethylbenzoylamino)-1-oxoethyl]benzoate | FC(C1=CC=C(C(=O)NCC(=O)C2=CC=C(C(=O)OCC)C=C2)C=C1)(F)F | C19H16F3NO4
reactant | phosphorus oxychloride | P(=O)(Cl)(Cl)Cl | Cl3OP
product | ethyl 4-[2-(4-trifluoromethylphenyl)-5-oxazolyl]benzoate | Yield: 60% | FC(C1=CC=C(C=C1)C=1OC(=CN1)C1=CC=C(C(=O)OCC)C=C1)(F)F | C19H14F3NO3
